US04551455
(c) 6-[4-(1-Imidazolyl)phenyl]-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazine
4-[4-(1-Imidazolyl)phenyl]-3-methyl-4-oxobutyric acid (75.7 g) was suspended in 145 m of water. After the addition of 17 ml of hydrazine hydrate, the reaction mixture was stirred at reflux temperature for 2 hours. After cooling, the precipitated solid was collected by filtration, washed with water, and dried.

reactant | 4-[4-(1-Imidazolyl)phenyl]-3-methyl-4-oxobutyric acid | 75.7 g | N1(C=NC=C1)C1=CC=C(C=C1)C(C(CC(=O)O)C)=O | C14H14N2O3
reactant | hydrazine hydrate | 17 ml | O.NN
solvent | water | O | H2O
product | 6-[4-(1-Imidazolyl)phenyl]-5-methyl-3-oxo-2,3,4,5-tetrahydropyridazine | N1(C=NC=C1)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H14N4O
